US04125732
(5-Indanyloxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetic acid
A mixture of 5 g of potassium hydroxide, 7.0 g of methyl(5-indanyloxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate, 5 ml of methanol and 50 ml of water is refluxed for 4 hours. The mixture is acidified with concentrated HCl, chilled and the aqueous layer decanted from the gum which separated. The gum is washed with water, dissolved in chloroform and the solution dried (MgSO4). The solvent is removed under reduced pressure to give 6.8 g of gum. The gum is crystallized from petroleum ether containing a small amount of ether to give 5.4 g of off-white crystals. Recrystallization from chloroform-hexane gives white crystals, mp 104°-108° C.

reactant | potassium hydroxide | 5 g | [OH-].[K+]
reactant | methyl(5-indanyloxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | 7.0 g | COC(C(C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl)OC=1C=C2CCCC2=CC1)=O | C27H27ClO5
reactant | methanol | 5 ml | CO | CH4O
reactant | HCl | Cl | ClH
solvent | water | 50 ml | O | H2O
product | (5-Indanyloxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetic acid | 6.8 g | C1CCC2=CC(=CC=C12)OC(C(=O)O)C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl | C26H25ClO5
